US06869694B2
In a 100 ml-three-necked flask, 2.80 g (15.4 mM) of 2-chloro-5-trifluoromethylpyridine, 2.50 g (15.4 mM) of 2-benzofuranylboronic acid, 14 ml of toluene, 7 ml of ethanol and 14 ml of 2M-sodium carbonate aqueous solution were placed and stirred at room temperature under nitrogen stream, and 0.55 g (0.48 mM) of tetrakis(triphenylphosphine)palladium (0) was added thereto. Thereafter, reflux under stirring for 4 hours was performed under nitrogen stream. After the reaction, the reaction mixture was cooled on an ice bath and stirred at room temperature after addition of ethyl acetate and saturated saline water. The organic layer was washed with water and dried with anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to obtain a residue. The residue was purified by alumina column chromatography (eluent: toluene) and recrystallized from methanol to obtain 0.72 g of 2-(5-trifluoromethylpyridine-2-yl)benzofuran (Yield: 17.7%).

reactant | 2-chloro-5-trifluoromethylpyridine | 15.4 mM, 2.80 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 2-benzofuranylboronic acid | 15.4 mM, 2.50 g | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.48 mM, 0.55 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-(5-trifluoromethylpyridine-2-yl)benzofuran | 0.72 g, Yield: 17.7% | FC(C=1C=CC(=NC1)C=1OC2=C(C1)C=CC=C2)(F)F | C14H8F3NO
